US07074798B2
4-[7-(2-Formylphenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (27 mg) was dissolved in anhydrous tetrahydrofuran (0.5 ml) and ethanol (0.5 ml), and sodium borohydride (20 mg) was added thereto. The reaction solution was stirred at room temperature for 1 hour, diluted with ethyl acetate, and washed with 1 N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure to give 28 mg of 4-[7-(2-hydroxymethylphenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester. This product (8 mg) was dissolved in trifluoroacetic acid, and the solution was concentrated. The residue was purified by reversed phase high performance liquid chromatography to give 1.60 mg of 7-(2-hydroxymethylphenyl)-1,3-dimethyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione trifluoroacetate [MS m/e (ESI) 371(MH+—CF3COOH)] and 0.46 mg of 7-(2-trifluoroacetoxymethylphenyl)-1,3-dimethyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione trifluoroacetate [MS m/e (ESI) 467(MH+—CF3COOH)].

reactant | 4-[7-(2-Formylphenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 27 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=O)=O)C)=O)C | C23H28N6O5
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-(2-hydroxymethylphenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 28 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)CO)=O)C)=O)C | C23H30N6O5
